US04130579
In a 1-liter flask, equipped as described in Example 10(a), was put 9.06 g of 2,6-bis(2-methyl-2-cyanopropyl)naphthalene and 300 ml of reagent grade toluene which had been passed through acid alumina under nitrogen directly into the reaction vessel. With stirring at room temperature, 107 ml of a 25% solution of diisobutylaluminum hydride in toluene was added in 55 minutes. The mixture was then refluxed for 20 hrs. After the mixture had been cooled in an ice-water bath, a solution of 6 ml of water in 30 ml of methanol was added with stirring during 55 minutes. This was followed by the addition of a solution of 30 ml of water in 60 ml of methanol during 1 hr 35 min. The mixture was stirred for 1 hr while being cooled in the ice-water bath and then at room temperature overnight. The mixture was filtered under nitrogen, the solid was washed thoroughly with toluene on the filter, and the combined filtrate and rinsings were distilled on the water pump. The resulting solid residue, after being dried in vacuo for about 2 hrs, weighed 8.0 g and melted at 97°-98.25°. Sublimation of this material at 145°-165°/0.6 mm gave 2,6-bis(2,2-dimethyl-3-aminopropyl)naphthalene as a colorless, crystalline solid melting at 96.75°-98.50°.

reactant | 2,6-bis(2-methyl-2-cyanopropyl)naphthalene | 9.06 g | CC(CC1=CC2=CC=C(C=C2C=C1)CC(C)(C)C#N)(C)C#N | C20H22N2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 6 ml | O | H2O
reactant | water | 30 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 2,6-bis(2,2-dimethyl-3-aminopropyl)naphthalene | CC(CC1=CC2=CC=C(C=C2C=C1)CC(CN)(C)C)(CN)C | C20H30N2
